US08183381B2
Step 1: Preparation of 1-methanesulfonyl-4-prop-2-ynyloxy-benzene
A mixture of 4-methylsulfonyl-phenol, propargyl bromide and K2CO3 was refluxed overnight. After cooling, the mixture was filtered through a pad of celite. The filtrate was concentrated in vacuo. The crude solid product was purified on silica gel to give the desired product as a pale yellow solid. 1H NMR (CDCl3): δ 7.9 (2H, d), 7.12 (2H, d), 4.79 (2H, d), 3.05 (3H, s), 2.58 (1H, t).

reactant | 4-methylsulfonyl-phenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 1-methanesulfonyl-4-prop-2-ynyloxy-benzene | CS(=O)(=O)C1=CC=C(C=C1)OCC#C | C10H10O3S
